US04762838
2-Amino-5-(ethylthio)benzoic Acid
To a 500 ml flask fitted with a magnetic stirrer, dropping funnel and thermometer, and containing a solution of 12.7 g (0.192 mol) of 85% potassium hydroxide in 300 ml of methanol was added in portions 10.0 g (0.0481 mol) of methyl 2-amino-5-thiocyanatobenzoate. The solution was cooled to 10° C. and a solution of 6.29 g (0.058 mol) ethylbromide in 50 ml of methanol was added over 10 minutes. This was followed by the addition of 8.0 g (0.048 mol) potassium iodide. After 2.5 hours, the reaction mixture was evaporated to a semi-solid under reduced pressure and treated with 300 ml of water. The aqueous solution was extracted with chloroform, and the organic layer dried over magnesium sulfate. The solution was filtered and evaporated to give 7.5 g (79%) of crude product. This material was recrystallized from hexane to give 3.01 g (32%) of the title compound, m.p. 97°-100° C.

reactant | potassium hydroxide | 0.192 mol, 12.7 g | [OH-].[K+]
reactant | methyl 2-amino-5-thiocyanatobenzoate | 0.0481 mol, 10.0 g | NC1=C(C(=O)OC)C=C(C=C1)SC#N | C9H8N2O2S
reactant | ethylbromide | 0.058 mol, 6.29 g | C(C)Br | C2H5Br
reactant | potassium iodide | 0.048 mol, 8.0 g | [I-].[K+]
solvent | methanol | 300 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-Amino-5-(ethylthio)benzoic Acid | 3.01 g, 32% | NC1=C(C(=O)O)C=C(C=C1)SCC | C9H11NO2S
